US07569536B2
Isonicotinoyl chloride hydrochloride (88.2 mg, 0.495 mmol, commercially available product) and triethylamine (140 μL, 1.00 mmol) were sequentially added at 0° C. to a dichloromethane (3 ml) solution of 2-amino-1-diethylamino-4-(trifluoromethyl)benzene (103 mg, 0.443 mmol), obtained as described in Referential Example 6-2. The resulting mixture was warmed to room temperature and stirred for one and a half hours. Water was added to the mixture, and the resulting mixture was extracted three times with dichloromethane. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30 g, hexane/ethyl acetate=2/1). Thus, N-[2-diethylamino-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0347) (51.0 mg, 34.1%) was yielded as a colorless solid.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 1.00 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | 2-amino-1-diethylamino-4-(trifluoromethyl)benzene | 0.443 mmol, 103 mg | NC1=C(C=CC(=C1)C(F)(F)F)N(CC)CC | C11H15F3N2
solvent | Water | O | H2O
product | N-[2-diethylamino-5-(trifluoromethyl)phenyl]isonicotinamide | 51.0 mg, 34.1% | C(C)N(C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O)CC | C17H18F3N3O
